US07238696B2
Preparation of 6-Methoxy-1-phenyl 3-(phenylsulfonyl)-5-piperazin-1-yl-1H-indazole hydrochloride
A mixture of 5-(4-benzylpiperazin-1-yl)-6-methoxy-1-phenyl-3-(phenyl-sulfonyl)-1H-indazole (190 mg, 0.353 mmol) and 1-chloroethylchloroformate (250 mg, 1.77 mmol) in 1,2-dichloroethane is heated at reflux temperature for 4 h, cooled to room temperature and concentrated to dryness. The resultant residue is dissolved in ethanol, heated at reflux temperature for 16 h and concentrated in vacuo to give the title compound as a white solid, 130 mg, (82% yield). This compound is purified by recrystalization from ethanol/ether to afford a white solid, mp 167–170° C., identified by NMR and mass spectral analyses.

reactant | 5-(4-benzylpiperazin-1-yl)-6-methoxy-1-phenyl-3-(phenyl-sulfonyl)-1H-indazole | 0.353 mmol, 190 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NN(C2=CC1OC)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C31H30N4O3S
reactant | 1-chloroethylchloroformate | 1.77 mmol, 250 mg | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 6-Methoxy-1-phenyl 3-(phenylsulfonyl)-5-piperazin-1-yl-1H-indazole hydrochloride | 82% yield | Cl.COC1=C(C=C2C(=NN(C2=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)N1CCNCC1 | InChI=1S/C24H24N4O3S.ClH/c1-31-23-17-21-20(16-22(23)27-14-12-25-13-15-27)24(26-28(21)18-8-4-2-5-9-18)32(29,30)19-10-6-3-7-11-19;/h2-11,16-17,25H,12-15H2,1H3;1H
